US04472310
6.9 g of 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5-androstene was combined with 69 ml of carbon tetrachloride with an acetic tert.-butyl chromate solution prepared from 10.35 g of chromium(VI) oxide, 90 ml of carbon tetrachloride, 28.2 ml of tert.-butyl alcohol, 37.2 ml of acetic acid, and 134 ml of acetic anhydride. The reaction solution was then stirred for 32 hours at 80° C., diluted with methylene chloride, and washed with sodium acetate solution, sodium bicarbonate solution, and water. After drying and evaporation, the resultant residue was chromatographed on silica gel, thus obtaining 4.4 g of 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5-androsten-7-one, mp 245°-246° C. (acetone-diisopropyl ether).

reactant | 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5-androstene | 6.9 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H]([C@H]3[C@@H]1C3)[C@@H]3CC=C1C[C@H](CC[C@]1(C)[C@H]3CC2)OC(C2=CC=CC=C2)=O | C29H36O4
reactant | carbon tetrachloride | 69 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | tert.-butyl alcohol | 28.2 ml | C(C)(C)(C)O | C4H10O
reactant | acetic anhydride | 134 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | chromium(VI) oxide | 10.35 g | [O-2].[Cr+6].[O-2].[O-2]
solvent | acetic acid | 37.2 ml | C(C)(=O)O | C2H4O2
product | 17β-acetoxy-3β-benzoyloxy-15β,16β-methylene-5-androsten-7-one | 4.4 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H]([C@H]3[C@@H]1C3)[C@@H]3C(C=C1C[C@H](CC[C@]1(C)[C@H]3CC2)OC(C2=CC=CC=C2)=O)=O | C29H34O5
